US05073559
Example 10 2-(2-Propoxyphenyl)-8-aminopurin-6-one
A partial solution of 4,5-diamino-2-(2-propoxyphenyl)-pyrimidin-6-one sulphate (1.1 g), cyanogen bromide (0.33 g), and sodium acetate trihydrate (0.42 g) in 50% aqueous ethanol (44 ml) was stirred at room temperature for 2 hours then allowed to stand overnight. The stirred mixture was then heated in a water bath (temperature 65° C.) for 3 hours, extra cyanogen bromide (0.05 g) added, and the mixture heated for a further 2 hours. The suspension was subjected to partial evaporation under reduced pressure then ammonium hydroxide was added to pH 5. The crude product was collected by filtration and recrystallised from acetonitrile to give the pure title compound, 0.6 g, m.p. 322°-335° C. dec. (after melting ca. 200° C.).

reactant | 4,5-diamino-2-(2-propoxyphenyl)-pyrimidin-6-one sulphate | 1.1 g | S(=O)(=O)(O)O.NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC
reactant | cyanogen bromide | 0.33 g | N#CBr | CBrN
reactant | sodium acetate trihydrate | 0.42 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 0.05 g | N#CBr | CBrN
solvent | ethanol | 44 ml | C(C)O | C2H6O
product | 2-(2-Propoxyphenyl)-8-aminopurin-6-one | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC(=NC2=N1)N)=O | C14H13N5O2
